US07326791B2
3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[(2R)-2-(methylsulfonylaminomethyl)pyrrolidin-1-ylcarbonyl]benzamide
Prepared analogously to Example 125 from 4-((2R)-2-aminomethylpyrrolidin-1-ylcarbonyl)-3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]benzamide, methanesulfonic acid chloride, and triethylamine in tetrahydrofuran. Yield: 62%; Rf value: 0.31 (silica gel; dichloromethane/ethanol=9:1); C23H25Cl2N5O4S (538.45); mass spectrum: (M+H)+=538/549/542 (chlorine isotope) and (M−H)−=536/538/540 (chlorine isotope).

reactant | 4-((2R)-2-aminomethylpyrrolidin-1-ylcarbonyl)-3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]benzamide | NC[C@@H]1N(CCC1)C(=O)C1=C(C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=C1)Cl | C22H23Cl2N5O2
reactant | methanesulfonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[(2R)-2-(methylsulfonylaminomethyl)pyrrolidin-1-ylcarbonyl]benzamide | Yield: 62% | ClC=1C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1[C@H](CCC1)CNS(=O)(=O)C | C23H25Cl2N5O4S
